US07226951B2
Trifluoro-methanesulfonic acid 3-tert-butyl-phenyl ester (Intermediate 101)
A stirred, cooled (ice bath) solution of 3-tert-butyl phenol (Aldrich, 2 g, 13.3 mmol) in anhydrous dichloromethane (15 mL) was treated with 2-[N,N′-bis(trifluoromethylsulfonyl)amino]-5-chloropyridine (7.8 g, 20 mmol) followed by 4-(dimethylamino)pyridine (3.2 g, 26.6 mmol). The cooling bath was removed and the reaction mixture was stirred at ambient temperature for 18 h. It was diluted with ethyl acetate, washed with 2N hydrochloric acid, 2N sodium hydroxide, and brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to an oil. Flash column chromatography over silica gel (230–400 mesh) using 10% ethyl acetate in hexane as the eluent afforded the title product as a clear oil (3.06 g, 82%).

reactant | 3-tert-butyl phenol | 13.3 mmol, 2 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | 2-[N,N′-bis(trifluoromethylsulfonyl)amino]-5-chloropyridine | 20 mmol, 7.8 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 26.6 mmol, 3.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Trifluoro-methanesulfonic acid 3-tert-butyl-phenyl ester | 3.06 g, 82% | C(C)(C)(C)C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C11H13F3O3S
